**
.include TSMC_180nm.txt

.option scale=0.09u
.global Gnd

*capacitor
Csum Sum gnd 1.5f
Ccarry C gnd 1.5f

*sources
V1  drain gnd dc 1
VA  A gnd pulse 1 0 0 0.1n 0.1n 40n 80n
VB  B gnd pulse 0 1 0 0.1n 0.1n 80n 160n 
VC  Cin gnd pulse 0 1 0 0.1n 0.1n 160n 320n
***
* pulse(V1 V2 TD TR TF PW PER
* V1 = the initial amplitude
* V2 = the pulse amplitude
* TD = the delay time in seconds
* TR = the rise time in seconds
* TF = the fall time in seconds
* PW = the pulse width in seconds
* PER = the period in seconds
***


M1000 S0 a_810_411# drain w_876_327# CMOSP w=8 l=5
+  ad=184 pd=62 as=2146 ps=920
M1001 a_1125_202# Cin Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=1723 ps=660
M1002 drain a_810_251# S0 w_876_327# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1003 a_1125_251# a_1044_336# a_1125_202# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1004 a_1193_139# C0 drain w_1175_133# CMOSP w=9 l=4
+  ad=207 pd=64 as=0 ps=0
M1005 a_733_145# A drain w_713_139# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1006 a_810_251# B drain w_790_245# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1007 drain a_729_336# a_810_251# w_790_245# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1008 drain B a_733_145# w_713_139# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1009 a_733_145# B a_733_96# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=207 ps=64
M1010 a_810_362# A Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1011 a_1044_287# S0 Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1012 a_1044_336# Cin a_1044_287# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1013 a_810_411# a_729_336# a_810_362# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1014 C1 a_1048_145# Gnd Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1015 a_729_336# A drain w_709_330# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1016 drain B a_729_336# w_709_330# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1017 a_1048_96# S0 Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1018 Sum a_1125_411# drain w_1191_327# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1019 drain a_1125_251# Sum w_1191_327# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1020 C a_1193_97# Gnd Gnd CMOSN w=5 l=5
+  ad=55 pd=32 as=0 ps=0
M1021 a_1125_251# Cin drain w_1105_245# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1022 a_1048_145# S0 drain w_1028_139# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1023 Gnd C1 a_1193_97# Gnd CMOSN w=5 l=4
+  ad=0 pd=0 as=115 ps=56
M1024 drain a_1044_336# a_1125_251# w_1105_245# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1025 drain Cin a_1048_145# w_1028_139# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1026 a_1125_362# S0 Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1027 C0 a_733_145# drain w_798_139# CMOSP w=8 l=5
+  ad=136 pd=50 as=0 ps=0
M1028 a_1125_411# a_1044_336# a_1125_362# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1029 a_1044_336# S0 drain w_1024_330# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1030 a_810_411# A drain w_790_405# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1031 drain a_729_336# a_810_411# w_790_405# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1032 drain Cin a_1044_336# w_1024_330# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1033 C a_1193_97# drain w_1248_133# CMOSP w=9 l=5
+  ad=99 pd=40 as=0 ps=0
M1034 a_896_284# a_810_411# Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1035 S0 a_810_251# a_896_284# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1036 C0 a_733_145# Gnd Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1037 a_1048_145# Cin a_1048_96# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1038 a_1193_97# C0 Gnd Gnd CMOSN w=5 l=4
+  ad=0 pd=0 as=0 ps=0
M1039 a_810_202# B Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1040 C1 a_1048_145# drain w_1113_139# CMOSP w=8 l=5
+  ad=136 pd=50 as=0 ps=0
M1041 a_733_96# A Gnd Gnd CMOSN w=9 l=5
+  ad=0 pd=0 as=0 ps=0
M1042 a_810_251# a_729_336# a_810_202# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1043 a_1193_97# C1 a_1193_139# w_1175_133# CMOSP w=9 l=4
+  ad=108 pd=42 as=0 ps=0
M1044 a_1125_411# S0 drain w_1105_405# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1045 drain a_1044_336# a_1125_411# w_1105_405# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1046 a_729_287# A Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1047 a_729_336# B a_729_287# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1048 a_1211_284# a_1125_411# Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1049 Sum a_1125_251# a_1211_284# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
C0 drain w_1191_327# 0.08fF
C1 a_810_251# w_876_327# 0.12fF
C2 C1 w_1175_133# 0.11fF
C3 A Gnd 0.21fF
C4 S0 a_810_251# 0.20fF
C5 a_1044_336# a_1125_411# 0.20fF
C6 B Gnd 0.30fF
C7 drain w_1024_330# 0.08fF
C8 a_729_336# w_709_330# 0.03fF
C9 a_1048_145# w_1028_139# 0.03fF
C10 C0 w_798_139# 0.03fF
C11 Cin w_1028_139# 0.12fF
C12 drain w_1248_133# 0.04fF
C13 C1 w_1113_139# 0.03fF
C14 drain Gnd 0.21fF
C15 a_729_336# a_810_411# 0.20fF
C16 C0 a_1048_145# 0.20fF
C17 C0 Cin 0.01fF
C18 drain w_876_327# 0.08fF
C19 A w_709_330# 0.12fF
C20 a_1044_336# w_1105_405# 0.12fF
C21 B w_709_330# 0.12fF
C22 a_1125_411# w_1191_327# 0.12fF
C23 a_1125_251# w_1105_245# 0.03fF
C24 drain w_1175_133# 0.04fF
C25 S0 drain 0.48fF
C26 drain a_1125_411# 0.33fF
C27 a_1193_97# C1 0.12fF
C28 a_1048_145# Cin 0.20fF
C29 a_1044_336# a_1125_251# 0.20fF
C30 a_729_336# w_790_405# 0.12fF
C31 drain w_709_330# 0.08fF
C32 S0 w_1024_330# 0.12fF
C33 a_733_145# w_798_139# 0.12fF
C34 Sum w_1191_327# 0.03fF
C35 drain w_1113_139# 0.04fF
C36 drain a_810_411# 0.33fF
C37 S0 Gnd 0.21fF
C38 C w_1248_133# 0.04fF
C39 drain Sum 0.15fF
C40 C0 C1 0.17fF
C41 A w_790_405# 0.12fF
C42 drain w_1105_405# 0.19fF
C43 S0 w_876_327# 0.03fF
C44 a_733_145# w_713_139# 0.03fF
C45 Cin w_1105_245# 0.12fF
C46 a_1125_251# w_1191_327# 0.12fF
C47 a_1044_336# Cin 0.20fF
C48 drain w_790_405# 0.19fF
C49 drain w_1028_139# 0.08fF
C50 a_810_411# w_876_327# 0.12fF
C51 a_1193_97# w_1248_133# 0.11fF
C52 a_1125_251# Gnd 0.20fF
C53 S0 w_1105_405# 0.12fF
C54 drain w_798_139# 0.04fF
C55 A w_713_139# 0.12fF
C56 a_1125_411# w_1105_405# 0.03fF
C57 a_1044_336# w_1105_245# 0.12fF
C58 B w_713_139# 0.12fF
C59 a_1193_97# w_1175_133# 0.04fF
C60 drain Cin 0.25fF
C61 a_729_336# a_810_251# 0.20fF
C62 C0 Gnd 0.53fF
C63 a_733_145# B 0.20fF
C64 a_729_336# w_790_245# 0.12fF
C65 drain w_713_139# 0.08fF
C66 S0 w_1028_139# 0.12fF
C67 a_810_251# w_790_245# 0.03fF
C68 Cin w_1024_330# 0.12fF
C69 C0 w_1175_133# 0.09fF
C70 S0 C0 0.15fF
C71 a_729_336# B 0.20fF
C72 Cin Gnd 0.19fF
C73 Sum a_1125_251# 0.18fF
C74 drain w_1105_245# 0.08fF
C75 a_810_411# w_790_405# 0.03fF
C76 B w_790_245# 0.12fF
C77 a_729_336# drain 0.18fF
C78 C1 drain 0.16fF
C79 a_1044_336# drain 0.18fF
C80 A B 0.23fF
C81 drain w_790_245# 0.08fF
C82 a_1044_336# w_1024_330# 0.03fF
C83 A drain 0.59fF
C84 a_1048_145# w_1113_139# 0.12fF
C85 drain B 0.25fF
C86 a_729_336# Gnd 0.18fF
C87 C1 Gnd 0.66fF
C88 a_1044_336# Gnd 0.18fF
C89 a_810_251# Gnd 0.20fF
C90 C Gnd 0.23fF
C91 a_1193_97# Gnd 0.79fF
C92 C0 Gnd 3.88fF
C93 a_1048_145# Gnd 1.10fF
C94 a_733_145# Gnd 1.10fF
C95 C1 Gnd 1.67fF
C96 Sum Gnd 0.45fF
C97 a_1125_251# Gnd 1.85fF
C98 Cin Gnd 2.52fF
C99 a_810_251# Gnd 1.85fF
C100 B Gnd 2.81fF
C101 Gnd Gnd 14.68fF
C102 a_1125_411# Gnd 1.39fF
C103 a_810_411# Gnd 1.39fF
C104 S0 Gnd 0.44fF
C105 a_729_336# Gnd 0.29fF
C106 A Gnd 3.31fF
C107 drain Gnd 0.32fF
C108 w_1248_133# Gnd 0.82fF
C109 w_1175_133# Gnd 1.35fF
C110 w_1113_139# Gnd 0.90fF
C111 w_1028_139# Gnd 1.37fF
C112 w_798_139# Gnd 0.90fF
C113 w_713_139# Gnd 1.37fF
C114 w_1105_245# Gnd 1.37fF
C115 w_790_245# Gnd 1.37fF
C116 w_1191_327# Gnd 1.37fF
C117 w_1024_330# Gnd 1.37fF
C118 w_876_327# Gnd 1.37fF
C119 w_709_330# Gnd 1.37fF
C120 w_1105_405# Gnd 1.37fF
C121 w_790_405# Gnd 1.37fF
.tran 0.01us 320ns

*Control 
.control

run
plot v(A) v(B)+2 v(Cin)+4 v(C)+6 v(Sum)+8 

***
meas tran delay_a_lh
+trig v(a) val =0.5 rise=1 targ v(Sum) val =0.5 fall =1
meas tran delay_a_hl
+trig v(a) val =0.5 fall=1 targ v(Sum) val =0.5 rise =1

meas tran delay_b_lh
+trig v(b) val =0.5 rise=1 targ v(Sum) val =0.5 fall =1
meas tran delay_b_hl
+trig v(b) val =0.5 fall=1 targ v(Sum) val =0.5 rise =1

echo delay_a_lh: "$&delay_a_lh" 
echo delay_a_hl: "$&delay_a_hl" 
echo delay_b_lh: "$&delay_b_lh" 
echo delay_b_hl: "$&delay_b_hl"

.endc

.end
