**
.include TSMC_180nm.txt

.option scale=0.09u
.global Gnd

*capacitor
Csum Sum gnd 1.5f
Ccarry Carry gnd 1.5f

*sources
V1  drain gnd dc 1
VA  A gnd pulse 1 0 0 0.1n 0.1n 40n 80n
VB  B gnd pulse 0 1 0 0.1n 0.1n 80n 160n 

***
* pulse(V1 V2 TD TR TF PW PER
* V1 = the initial amplitude
* V2 = the pulse amplitude
* TD = the delay time in seconds
* TR = the rise time in seconds
* TF = the fall time in seconds
* PW = the pulse width in seconds
* PER = the period in seconds
***

M1000 a_626_213# a_545_298# a_626_164# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=207 ps=64
M1001 a_549_107# B a_549_58# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=207 ps=64
M1002 a_545_249# A Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=774 ps=280
M1003 a_545_298# B a_545_249# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1004 Sum a_626_373# drain w_692_289# CMOSP w=8 l=5
+  ad=184 pd=62 as=992 ps=424
M1005 drain a_626_213# Sum w_692_289# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1006 a_626_213# B drain w_606_207# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1007 a_549_107# A drain w_529_101# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1008 drain a_545_298# a_626_213# w_606_207# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1009 drain B a_549_107# w_529_101# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1010 a_626_324# A Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1011 a_626_373# a_545_298# a_626_324# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1012 a_545_298# A drain w_525_292# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1013 drain B a_545_298# w_525_292# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1014 Carry a_549_107# Gnd Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1015 a_549_58# A Gnd Gnd CMOSN w=9 l=5
+  ad=0 pd=0 as=0 ps=0
M1016 Carry a_549_107# drain w_614_101# CMOSP w=8 l=5
+  ad=136 pd=50 as=0 ps=0
M1017 a_626_373# A drain w_606_367# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1018 drain a_545_298# a_626_373# w_606_367# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1019 a_712_246# a_626_373# Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1020 Sum a_626_213# a_712_246# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1021 a_626_164# B Gnd Gnd CMOSN w=9 l=5
+  ad=0 pd=0 as=0 ps=0
C0 B drain 0.25fF
C1 drain w_606_367# 0.19fF
C2 a_626_213# Gnd 0.20fF
C3 drain w_614_101# 0.04fF
C4 a_545_298# w_525_292# 0.03fF
C5 B Gnd 0.30fF
C6 a_626_213# w_606_207# 0.03fF
C7 Sum w_692_289# 0.03fF
C8 B w_529_101# 0.12fF
C9 Gnd drain 0.08fF
C10 drain w_529_101# 0.08fF
C11 a_626_213# a_545_298# 0.20fF
C12 A w_525_292# 0.12fF
C13 a_626_373# w_606_367# 0.03fF
C14 a_626_373# drain 0.33fF
C15 B w_606_207# 0.12fF
C16 a_626_213# w_692_289# 0.12fF
C17 drain w_606_207# 0.08fF
C18 a_545_298# w_606_367# 0.12fF
C19 B a_545_298# 0.20fF
C20 a_549_107# B 0.20fF
C21 a_545_298# drain 0.18fF
C22 Carry w_614_101# 0.03fF
C23 drain w_692_289# 0.08fF
C24 B A 0.23fF
C25 A w_606_367# 0.12fF
C26 A drain 0.46fF
C27 a_549_107# w_614_101# 0.12fF
C28 Gnd a_545_298# 0.18fF
C29 a_549_107# w_529_101# 0.03fF
C30 Gnd A 0.21fF
C31 a_626_373# a_545_298# 0.20fF
C32 Sum a_626_213# 0.18fF
C33 A w_529_101# 0.12fF
C34 a_545_298# w_606_207# 0.12fF
C35 a_626_373# w_692_289# 0.12fF
C36 B w_525_292# 0.12fF
C37 drain w_525_292# 0.08fF
C38 Carry Gnd 0.16fF
C39 a_549_107# Gnd 1.10fF
C40 Sum Gnd 0.30fF
C41 a_626_213# Gnd 1.85fF
C42 B Gnd 2.86fF
C43 Gnd Gnd 6.89fF
C44 a_626_373# Gnd 1.39fF
C45 A Gnd 3.39fF
C46 drain Gnd 0.18fF
C47 w_614_101# Gnd 0.90fF
C48 w_529_101# Gnd 1.37fF
C49 w_606_207# Gnd 1.37fF
C50 w_692_289# Gnd 1.37fF
C51 w_525_292# Gnd 1.37fF
C52 w_606_367# Gnd 1.37fF

.tran 0.01us 1us

*Control 
.control

run
plot v(A) v(Carry)+2 v(Sum)+4 v(B)+6

***
meas tran delay_a_lh
+trig v(a) val =0.5 rise=1 targ v(Sum) val =0.5 fall =1
meas tran delay_a_hl
+trig v(a) val =0.5 fall=1 targ v(Sum) val =0.5 rise =1

meas tran delay_b_lh
+trig v(b) val =0.5 rise=1 targ v(Sum) val =0.5 fall =1
meas tran delay_b_hl
+trig v(b) val =0.5 fall=1 targ v(Sum) val =0.5 rise =1

echo delay_a_lh: "$&delay_a_lh" 
echo delay_a_hl: "$&delay_a_hl" 
echo delay_b_lh: "$&delay_b_lh" 
echo delay_b_hl: "$&delay_b_hl"

.endc

.end
